US06900216B2
A mixture of 4-chlorobenzo[b]thiophene-2-carboxylic acid (2 g prepared in a manner similar to that described in J. Chem. Res. (S), 1978, 10), copper powder (0.82 g) and quinoline (20 ml) was stirred under nitrogen at 180° C. for 2 hours then cooled to ambient temperature and acidified by the addition of 2M hydrochloric acid (50 ml). The product was extracted into ether (50 ml), the extract was dried (MgSO4) and the solvent was removed in vacuo. The residue was purified by flash chromatography over silica using a 5:1 mixture of petroleum ether (b.p. 60-80° C.) and ethyl acetate as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 4-chlorobenzo[b]thiophene (1.49 g) as a pale yellow oil which was used without further purification.

reactant | 4-chlorobenzo[b]thiophene-2-carboxylic acid | ClC1=CC=CC=2SC(=CC21)C(=O)O | C9H5ClO2S
reactant | quinoline | 20 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 0.82 g | [Cu] | Cu
solvent | hydrochloric acid | 2M, 50 ml | Cl | ClH
product | 4-chlorobenzo[b]thiophene | 1.49 g | ClC1=CC=CC=2SC=CC21 | C8H5ClS
